US04880940
(c) Production of 4-methoxy-3-pyrrolin-2-on-1-yl acetic acid ethyl ester
11.3 g (0.1 mol) of 4-methoxy-3-pyrrolin-2-one and 24.2 g (0.137 mol) of bromoacetic acid ethyl ester (95 percent) were suspended in 150.0 ml of acetonitrile. The suspension was mixed with 4.1 g (0.137 mol) of 80 percent sodium hydride at 0° C. Then the reaction solution was allowed to warm to room temperature, and was stirred for 90 minutes more. After evaporation of the solvent, the residue was suspended with 150.0 ml of ice water and extracted four times, each with 400.0 ml of methylene chloride. After a conventional or usual working up, the residue was mixed with 100.0 ml of petroleum ether (50° to 70° C.) and kept in a refrigerator overnight. The product crystallized out, was filtered by suction and was dried in a high vacuum. 19.6 g of yellowish colored product with a melting point of 55° to 58° C. was obtained.

reactant | 4-methoxy-3-pyrrolin-2-one | 0.1 mol, 11.3 g | COC1=CC(NC1)=O | C5H7NO2
reactant | bromoacetic acid ethyl ester | 0.137 mol, 24.2 g | C(C)OC(CBr)=O | C4H7BrO2
reactant | sodium hydride | 0.137 mol, 4.1 g | [H-].[Na+]
solvent | acetonitrile | 150.0 ml | C(C)#N | C2H3N
product | 4-methoxy-3-pyrrolin-2-on-1-yl acetic acid ethyl ester | 19.6 g, Yield: 98.5 percent | C(C)OC(CN1C(C=C(C1)OC)=O)=O | C9H13NO4
